US05688823
N-Methyl-N-phenylaminomethyloxirane
A procedure similar to that described in Preparation 46 was repeated, except that 5 g of N-methylaniline, 7.65 ml of epibromohydrin, 2.44 g of sodium hydride (as a 55% by weight dispersion in mineral oil) and 100 ml of anhydrous dimethylformamide were used, to give 1.67 g of the title compound as a pale yellow oil having an Rf value of 0.33 (on silica gel thin layer chromatography, using a 1:10 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | N-methylaniline | 5 g | CNC1=CC=CC=C1 | C7H9N
reactant | epibromohydrin | 7.65 ml | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydride | 2.44 g | [H-].[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N-phenylaminomethyloxirane | 1.67 g | CN(C1=CC=CC=C1)CC1OC1 | C10H13NO
